US04257996
Methyl dilauryl phosphate
A solution of 5 g. (0.15 mole) of methanol and 12.12 g. (0.12 mole) of triethylamine in 200 ml. of toluene was stirred at ambient temperature (22° C.) and a total of 45.25 g. (0.1 mole) of dilauryl chlorophosphate (prepared as described in Preparation 1) was added dropwise over a period of 13 minutes. After the addition was complete, the reaction mixture was stirred for a further 1.5 hour at ambient temperature before being filtered to remove triethylamine hydrochloride (7.85 g.). The filtrate was heated to 95° C. for a few minutes before being cooled to 5° C. and filtered. The solid so isolated was a further 2.82 g. of triethylamine hydrochloride. The filtrate was evaporated to dryness and the residue was triturated with 150 ml. of ether. The insoluble material (triethylamine hydrochloride; 0.33 g.; total triethylamine hydrochloride=11 g.=80 percent theoretical) was removed by filtration and the filtrate was evaporated to dryness to yield 44 g. of methyl dilaurylphosphate which was found to contain 0.09 percent of hydrolyzable chlorine corresponding to the presence of 1.15 percent of starting material (dilauryl chlorophosphate).

reactant | methanol | 0.15 mole | CO | CH4O
reactant | triethylamine | 0.12 mole | C(C)N(CC)CC | C6H15N
reactant | dilauryl chlorophosphate | 0.1 mole | P(=O)(OCCCCCCCCCCCC)(OCCCCCCCCCCCC)Cl | C24H50ClO3P
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
reactant | chlorine | ClCl | Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Methyl dilauryl phosphate | P(=O)(OC)(OCCCCCCCCCCCC)OCCCCCCCCCCCC | C25H53O4P
